US06369110B1
Benzyltriphenylphosphonium chloride (29.67 g, 76.30 mmol) was added to a solution of potassium tertbutoxide (9.34 g, 83.24 mmol) in tetrahydrofuran (300 ml), followed by stirring at room temperature for 3 hours, and ethyl levulinate (10.00 g, 69.36 mmol) was added dropwise thereto. The reaction mixture was stirred at room temperature for 2 hours and then heated under reflux for another 2 hours. The reaction mixture was adjusted to pH 1 with a 1N-aqueous hydrochloric acid solution and extracted with ethyl acetate, and the extract solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/25) to obtain 9.20 g of ethyl 4-methyl-5-phenyl-4-pentenoate.

reactant | potassium tertbutoxide | 83.24 mmol, 9.34 g | CC(C)([O-])C.[K+]
reactant | ethyl levulinate | 69.36 mmol, 10.00 g | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Benzyltriphenylphosphonium chloride | 76.30 mmol, 29.67 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 4-methyl-5-phenyl-4-pentenoate | 9.20 g | CC(CCC(=O)OCC)=CC1=CC=CC=C1 | C14H18O2
